US07834051B2
2-chloro-4-[(6S,7R)-7-hydroxy-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]benzonitrile
To a solution of 4-[(6S,7R)-7-(tert-butyldimethylsilyloxy)-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]-2-chlorobenzonitrile (65.7 mg) in a mixed solvent of THF (6 mL) and methanol (6 mL) was added 6 mol/L hydrochloric acid (4.0 mL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was added to saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography, and recrystallized from hexane-ethyl acetate to give the title compound as a colorless solid (yield: 42.0 mg, 90%).

reactant | 4-[(6S,7R)-7-(tert-butyldimethylsilyloxy)-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]-2-chlorobenzonitrile | 65.7 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](N(C(C12CC2)=O)C2=CC(=C(C#N)C=C2)Cl)C | C20H27ClN2O2Si
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 6 mol/L, 4.0 mL | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | 2-chloro-4-[(6S,7R)-7-hydroxy-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]benzonitrile | yield: 42.0 mg, 90% | ClC1=C(C#N)C=CC(=C1)N1C(C2(CC2)[C@H]([C@@H]1C)O)=O | C14H13ClN2O2
